US07858643B2
Sodium hydride (0.12 g, 4.9 mmol) was added to a solution of 4-bromo-4H-pyrazole (0.60 g, 4.1 mmol) in DMF (10 mL). After stirring for 10 minutes, a solution of 2-chloro-propionic acid methyl ester in DMF (4 mL) was added. After stirring for 4 hours, the reaction was partitioned between ethyl acetate and water. The phases were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated by rotary evaporation. The residue was purified by silica gel chromatography using gradient elution of ethyl acetate and hexanes to afford 2-(4-bromo-pyrazol-1-yl)-propionic acid methyl ester (733 mg, 77%).

reactant | Sodium hydride | 4.9 mmol, 0.12 g | [H-].[Na+]
reactant | 4-bromo-4H-pyrazole | 4.1 mmol, 0.60 g | BrC1C=NN=C1 | C3H3BrN2
reactant | 2-chloro-propionic acid methyl ester | COC(C(C)Cl)=O | C4H7ClO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(4-bromo-pyrazol-1-yl)-propionic acid methyl ester | 733 mg, 77% | COC(C(C)N1N=CC(=C1)Br)=O | C7H9BrN2O2
